US05177075
3,4-Dihydro-5-(2-hydroxy-3-methoxypropoxy)-1(2H)-isoquinolinone
A mixture of 1 g (6 mmol) of 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone and 2.1 g (15 mmol) of potassium carbonate in 50 ml of ethanol was refluxed for one hour. To this was added 0.65 ml (18 mmol) of glycidyl methyl ether and the mixture was refluxed overnight. The reaction was concentrated, the residue dissolved in chloroform, filtered and concentrated to an oil which solidified. The solid was recrystallized twice from water to give 0.66 g (44%) of the desired product; mp 119°-123°.

reactant | 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone | 6 mmol, 1 g | OC1=C2CCNC(C2=CC=C1)=O | C9H9NO2
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | glycidyl methyl ether | 18 mmol, 0.65 ml | COCC1CO1 | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,4-Dihydro-5-(2-hydroxy-3-methoxypropoxy)-1(2H)-isoquinolinone | 0.66 g, 44% | OC(COC1=C2CCNC(C2=CC=C1)=O)COC | C13H17NO4
